US06583135B2
Preparation of 4-[3-(1,2,3,4,5,6-Hexahydroazepino[4,5-b]indol-10-yl)propoxy]benzonitrile Hydrochloride
To a 25 mL scintillation vial containing a glass bead was added 4-cyanophenol (0.033 g, 0.277 mmol), a solution (0.250 M) of tert-butyl 10-(3-hydroxypropyl)-1,4,5,6-tetrahydroazepino[4,5-b]indole-3(2H)-carboxylate (1.0 mL, 0.250 mmol) in tetrahydrofuran, a solution (0.275 M) of triphenylphosphine (1.0 mL, 0.275 mmol) in tetrahydrofuran, and diethylazodicarboxylate (43.5 μl, 0.275 mmol). The vial was capped and orbitally shaken for 30 h. The mixture then was diluted with dichloromethane (1 mL) and methanol (1 mL). DOWEX® ion exchange resin (5.2 meq/gram, 0.5-0.75 g) was added and the mixtures were capped and shaken orbitally at 40° C. for 3 h. The mixture was filtered and the resin was washed (2× each) with dichloromethane, methanol, water, and tetrahydrofuran. The product then was eluted using a 4 N solution of ammonium hydroxide in methanol. Evaporation provided a residue which upon treatment with methanolic hydrochloric acid and evaporation led to the title compound.

reactant | 4-cyanophenol | 0.277 mmol, 0.033 g | C(#N)C1=CC=C(C=C1)O | C7H5NO
reactant | tert-butyl 10-(3-hydroxypropyl)-1,4,5,6-tetrahydroazepino[4,5-b]indole-3(2H)-carboxylate | 0.250 mmol, 0.250 M, 1.0 mL | OCCCC=1C=2C3=C(NC2C=CC1)CCN(CC3)C(=O)OC(C)(C)C | C20H28N2O3
reactant | triphenylphosphine | 0.275 mmol, 0.275 M, 1.0 mL | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | diethylazodicarboxylate | 0.275 mmol, 43.5 μl | CCOC(=O)/N=N/C(=O)OCC | C6H10N2O4
reactant | dichloromethane | 1 mL | ClCCl | CH2Cl2
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
solvent | methanol | 1 mL | CO | CH4O
product | 4-[3-(1,2,3,4,5,6-Hexahydroazepino[4,5-b]indol-10-yl)propoxy]benzonitrile Hydrochloride | Cl.C1CNCCC=2NC=3C=CC=C(C3C21)CCCOC2=CC=C(C#N)C=C2 | InChI=1S/C22H23N3O.ClH/c23-15-16-6-8-18(9-7-16)26-14-2-4-17-3-1-5-21-22(17)19-10-12-24-13-11-20(19)25-21;/h1,3,5-9,24-25H,2,4,10-14H2;1H
